US07820699B2
79.4 Using general procedure E, (3S,4R)-3-acetoxy-4-aminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester acetate was coupled with 5-chlorothiophene-2-carboxylic acid to give (3S,4R)-3-acetoxy-4-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester. Brown oil. MS 347.0 ([M-iso-butene+H]+)

reactant | (3S,4R)-3-acetoxy-4-aminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester acetate | C(C)(=O)O.C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN)OC(C)=O
reactant | 5-chlorothiophene-2-carboxylic acid | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
product | (3S,4R)-3-acetoxy-4-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CNC(=O)C=1SC(=CC1)Cl)OC(C)=O | C17H23ClN2O5S
